US03978228
Methyl 2,3-dichloropropanesulfonate
To a solution of 13.6 g of methyl 2-propenesulfonate in 80 ml of chloroform was added 7.1 g of chlorine absorbed in 20 ml of chloroform dropwise with stirring below 0°C. After the addition, the mixture was stirred for two hours at room temperature. By distillation of the solvent and fractionation, 14.5 g of methyl 2,3-dichloropropanesulfonate, B.P. 89°-92°C/0.5 mmHg, was obtained in a yield of 70.0%.

reactant | methyl 2-propenesulfonate | 13.6 g | C(C=C)S(=O)(=O)OC | C4H8O3S
reactant | chlorine | 7.1 g | ClCl | Cl2
reactant | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2,3-dichloropropanesulfonate | yield of 70.0% | ClC(CS(=O)(=O)OC)CCl | C4H8Cl2O3S
